### ISSUE TITLE
Extended Riemann Hypothesis (ERH) is false as currently stated

### ISSUE THREAD

**Issue by wwylele** [google-deepmind/formal-conjectures#3931]
### Describe the misformalization
The ERH statement at https://github.com/google-deepmind/formal-conjectures/blob/60d13721bee9c49a21ee6510e2cf924637e47725/FormalConjectures/Millenium/RiemannHypothesis.lean#L127 can prove `False` with the following example. The problem is that Mathlib's `NumberField.dedekindZeta` has not been extended to the entire complex plane, thus producing junk zeros.

### Trivial proof/disproof
```lean
import Mathlib

--- The following is taken from FormalConjectures/Millenum/RiemannHypothesis.Lean
def IsInCriticalStrip (s : ℂ) : Prop :=
  0 < s.re ∧ s.re < 1


def trivialZeros (K : Type*) [Field K] [NumberField K] : Set ℤ :=
  by
    classical
    exact if NumberField.IsTotallyReal K then { -2 * n | (n : ℕ) } else Set.Iic 0

theorem extended_riemann_hypothesis_dedekindZeta (K : Type*) [Field K] [NumberField K] (s : ℂ)
    (hs : NumberField.dedekindZeta K s = 0)
    (hs_nontrivial : s ∉ Int.cast '' trivialZeros K)
    (hs_ne_one : s ≠ 1) :
    s.re = 1 / 2 := by
  sorry
--- end of FormalConjectures/Millenum/RiemannHypothesis.Lean snippet

noncomputable def idealEquiv : Ideal (NumberField.RingOfIntegers ℚ) ≃o Ideal ℤ := RingEquiv.idealComapOrderIso Rat.ringOfIntegersEquiv.symm

noncomputable def idealSubtypeEquiv (b : ℕ) : { I : Ideal (NumberField.RingOfIntegers ℚ) // Ideal.absNorm I = b } ≃ { I : Ideal ℤ // Ideal.absNorm I = b } := by
  refine idealEquiv.subtypeEquiv ?_
  intro a
  congrm ?_ = _
  simp only [Ideal.absNorm_apply, Submodule.cardQuot, idealEquiv, RelIso.coe_fn_toEquiv,
    RingEquiv.idealComapOrderIso_apply, Ideal.comap_symm]
  have : RingHomSurjective Rat.ringOfIntegersEquiv.toRingHom := ⟨Rat.ringOfIntegersEquiv.surjective⟩
  rw [show Ideal.map Rat.ringOfIntegersEquiv a = Submodule.map Rat.ringOfIntegersEquiv.toRingHom.toSemilinearMap a from Ideal.map_eq_submodule_map Rat.ringOfIntegersEquiv.toRingHom _]
  rw [show (Submodule.map Rat.ringOfIntegersEquiv.toRingHom.toSemilinearMap a).toAddSubgroup = a.toAddSubgroup.map Rat.ringOfIntegersEquiv.toAddEquiv from rfl]
  symm
  apply AddSubgroup.index_map_equiv (Submodule.toAddSubgroup a)

theorem card_ideal (b : ℕ) : Nat.card { I : Ideal ℤ // Ideal.absNorm I = b } = 1 := by
  rw [Nat.card_eq_one_iff_exists]
  refine ⟨⟨Ideal.span {(b : ℤ)}, by simp⟩, ?_⟩
  intro ⟨y, hy⟩
  simp [← hy]

theorem dedekind_quarter : NumberField.dedekindZeta ℚ (1 / 4 : ℂ) = 0 := by
  simp_rw [NumberField.dedekindZeta, LSeries, LSeries.term]
  apply tsum_eq_zero_of_not_summable
  simp_rw [fun b ↦ Nat.card_congr (idealSubtypeEquiv b), card_ideal]
  suffices ¬Summable fun (b : ℕ) => (1 / ↑b ^ (1 / 4 : ℂ) : ℂ) by
    convert this using 3 with b
    split_ifs with h
    · simp [h]
    simp
  rw [Complex.summable_one_div_nat_cpow]
  norm_num

theorem false : False := by
  have h := extended_riemann_hypothesis_dedekindZeta ℚ (1 / 4) dedekind_quarter (by 
    simp only [one_div, Set.mem_image, not_exists, not_and]
    intro x _ h
    obtain h := congr(4 * $h)
    simp at h
    norm_cast at h
    grind)
  simp at h

```

### Suggested fix
A proper definition that extends `NumberField.dedekindZeta` to the entire complex plane needs to be introduced first. 

### Choose either option
- [ ] I plan on working on this issue
- [x] This issue is up for grabs: I would like to see this misformalization fixed by somebody else
